US04987141
(vi) 2-[N-(prop-2-yl)sulphamoyl]-6-(methanesulphonyloxy)pyridine (compound No 1)
2-[(N-prop-2-yl)sulphamoyl]pyrid-6-one (0.052 g) was dissolved in dichloromethane (4 cm3). Methane sulphonylchloride (0.027 g) was added dropwise in dichloromethane (1 cm3) and the reaction mixture was stirred for 45 minutes. Triethylamine (0.024 g) in dichloromethane (1 cm3) was added dropwise and the reaction mixture was stirred for 2 hours. The mixture was left overnight and then refluxed for 2 hours. The cooled reaction mixture was poured into water and the product extracted into dichloromethane twice. The dichloromethane extracts were combined, dried, and evaporated under reduced pressure to leave the crude product.

reactant | 2-[(N-prop-2-yl)sulphamoyl]pyrid-6-one | 0.052 g | CC(C)NS(=O)(=O)C=1NC(C=CC1)=O | C8H12N2O3S
reactant | Methane sulphonylchloride | 0.027 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Triethylamine | 0.024 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 4 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 1 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 1 cm3 | ClCCl | CH2Cl2
product | 2-[N-(prop-2-yl)sulphamoyl]-6-(methanesulphonyloxy)pyridine | CC(C)NS(=O)(=O)C1=NC(=CC=C1)OS(=O)(=O)C | C9H14N2O5S2
